US06498169B1
Synthesis of 4-[N-(4-methoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine trihydrochloride
4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (139 mg) and 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a trihydrochloride which gave the title compound as yellow powder.

reactant | 4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 139 mg | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O4
reactant | 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(4-methoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine trihydrochloride | Cl.Cl.Cl.COC1=CC=C(C=C1)N(CC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O7.3ClH/c1-47-34-11-9-32(10-12-34)46(27-29-8-13-35(44-25-29)30-21-37(48-2)41(52-6)38(22-30)49-3)33-15-18-45(19-16-33)26-28-14-17-43-36(20-28)31-23-39(50-4)42(53-7)40(24-31)51-5;;;/h8-14,17,20-25,33H,15-16,18-19,26-27H2,1-7H3;3*1H
